US04344946
A mixture consisting of 222 mgm of 2,6-diamino-benzo[1,2-d:5,4-d']bisthiazole, 500 mgm of p-nitro-phenyl chloroacetate and 5 ml of dioxane were refluxed for 15 minutes. The reaction mixture was allowed to cool, and the crystalline substance which had separated out was filtered off, washed and dried. 350 mgm (93% of theory) of 2,6-bis-(chloroacetyl-amino)-benzo[1,2-d:5,4-d']bisthiazole, M.P. 330° C., were obtained.

reactant | 2,6-diamino-benzo[1,2-d:5,4-d']bisthiazole | NC=1SC=2C(N1)=CC=1N=C(SC1C2)N | C8H6N4S2
reactant | p-nitro-phenyl chloroacetate | ClCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 2,6-bis-(chloroacetyl-amino)-benzo[1,2-d:5,4-d']bisthiazole | 93% | ClCC(=O)NC=1SC=2C(N1)=CC=1N=C(SC1C2)NC(CCl)=O | C12H8Cl2N4O2S2
